US04117128
Acylation of 3-phenylbenzofuran with 4-methoxybenzenesulfonyl chloride as described hereinabove followed by demethylation of the 2-(4-methoxyphenylsulfonyl)-3-phenylbenzofuran thus formed as previously described gives 2-(4-hydroxyphenylsulfonyl)-3-phenylbenzofuran.

reactant | 3-phenylbenzofuran | C1(=CC=CC=C1)C1=COC2=C1C=CC=C2 | C14H10O
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 2-(4-methoxyphenylsulfonyl)-3-phenylbenzofuran | COC1=CC=C(C=C1)S(=O)(=O)C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2 | C21H16O4S
product | 2-(4-hydroxyphenylsulfonyl)-3-phenylbenzofuran | OC1=CC=C(C=C1)S(=O)(=O)C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2 | C20H14O4S
